US08871796B2
A mixture of 2-amino-5-bromo-2,3-dihydro-1H-indene hydrobromide salt (10.0 g, 34.1 mmol) in DCM (50 mL) was treated at 0° C. with Boc2O (8.0 g, 37 mmol). The mixture was then stirred overnight at RT, diluted with EtOAc and washed with 1 N HCl, 1 N NaOH, water, dried (Na2SO4), and concentrated. Triturated with hexanes to a remove pale yellow color, providing N-Boc-2-amino-5-bromo-2,3-dihydro-1H-indene (9.5 g; 89% yield): 1H NMR (600 MHz, CDCl3) δ 7.33 (s, 1H), 7.26 (dd, J=7.9, 1.8 Hz, 1H), 7.05 (d, J=8.2 Hz, 1H), 4.70 (br s, 1H), 4.43 (br s, 1H), 3.17-3.25 (m, 2H), 2.68-2.77 (m, 2H), 1.41 (s, 9H).

reactant | 2-amino-5-bromo-2,3-dihydro-1H-indene hydrobromide salt | 34.1 mmol, 10.0 g | Br.NC1CC2=CC=C(C=C2C1)Br
reactant | Boc2O | 37 mmol, 8.0 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-Boc-2-amino-5-bromo-2,3-dihydro-1H-indene | 9.5 g, 89% yield | C(=O)(OC(C)(C)C)NC1CC2=CC=C(C=C2C1)Br | C14H18BrNO2
